US06423689B1
[S-(R*,R*)]-3-(4-Benzyloxy-phenyl)-2(S)-[2(S)-(4-isopropyl-benzenesulfonylamino)-4-methyl-pentanoylamino]-propionic acid tert-butyl ester
Using a procedure similar to that described in Example 36, the product from Example AI ([S-(R*,R*)]-2-{2-amino-4-methyl-pentanoylamino}-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester) (0.20 g, 0.45 mmol) and 4-isopropylphenylsulfonyl chloride (0.10 g, 0.45 mmol) were coupled to give the title compound as a white solid (0.20 g, 71%), mp=147-148° C.

reactant | 2-{2-amino-4-methyl-pentanoylamino}-3-(4-benzyloxy-phenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC(C(CC(C)C)N)=O)=O | C26H36N2O4
reactant | 4-isopropylphenylsulfonyl chloride | 0.45 mmol, 0.10 g | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
product | 3-(4-Benzyloxy-phenyl)-2(S)-[2(S)-(4-isopropyl-benzenesulfonylamino)-4-methyl-pentanoylamino]-propionic acid tert-butyl ester | 0.20 g, 71% | C(C)(C)(C)OC([C@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)NC([C@H](CC(C)C)NS(=O)(=O)C1=CC=C(C=C1)C(C)C)=O)=O | C35H46N2O6S
